US05603919
Preparation of VP/VCL/DMAPMA/n-Octadecyl Methacrylate Tetramer (wt. %--7.8/81.4/6.0/4.8)
Vinyl pyrrolidone (55.6 g), vinyl caprolactam (577.5 g), dimethylaminopropyl methacrylamide (DMAPMA) (42.6 g), n-octadecyl methacrylate (33.9 g) and ethanol (867.2 g) were charged into a 2-liter water-jacketed resin flask. The reaction flask was equipped with a condenser, a thermometer, a septum (for catalyst addition), an anchor-type metal stirrer, and a nitrogen sparge tube. Nitrogen was bubbled through the solution while the resin flask was heated to 68° C. using hot water circulating through the jacketed flask. After an additional half-hour of degassing at reflexing, a first shot of Lupersol 11 (0.25 ml) was injected into the flask. Subsequently, Lupersol 11 additions were made at 10, 40, 70, 100, 140, 180 and 240 minutes after the first addition. The reaction temperature was then brought up to 75° C. and held for an additional 5 hours, then cooled to room temperature and discharged.

reactant | Vinyl pyrrolidone | 55.6 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | vinyl caprolactam | 577.5 g | C(=C)C1C(=O)NCCCC1 | C8H13NO
reactant | dimethylaminopropyl methacrylamide | 42.6 g | CN(C)CCCC=C(C(=O)N)C | C9H18N2O
reactant | n-octadecyl methacrylate | 33.9 g | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | C22H42O2
solvent | ethanol | 867.2 g | C(C)O | C2H6O
product | DMAPMA n-Octadecyl Methacrylate | CC(=C)C(=O)NCCCN(C)C.C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | InChI=1S/C22H42O2.C9H18N2O/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-24-22(23)21(2)3;1-8(2)9(12)10-6-5-7-11(3)4/h2,4-20H2,1,3H3;1,5-7H2,2-4H3,(H,10,12)
